US06291530B1
To a solution of (E)-[5-(2-diethylcarbamoyl-1-methylvinyl)-2-(2,6-difluorobenzyloxy)-phenyl]-acetaldehyde (4.38 g, 10.92 mmol) and 2 M isobutylene in THF (36.6 mL, 73.2 mmol) in tBuOH (70 mL) is added a solution of NaClO2 (1.58 g, 17.48 mmol) and NaH2PO4.H2O (1.96 g, 14.2 mmol) in H2O (25 mL), and the mixture is stirred at room temperature for 1.5 hours. The mixture is then acidified to pH 3 with 1 N HCl, and then extracted with ether (3×150 mL). The combined organic layers are then extracted with 1 N NaOH (3×150 mL), and the combined aqueous layers are acidified to pH 3 with conc. HCl, and then extracted with EtOAc(3×10). The combined organic phase is washed with water (1×50 mL) and brine (1×50 mL), dried over MgSO4, and concentrated in vacuo. Recrystallization from MeOH/EtOAc yields (E)-[5-(2-diethylcarbamoyl-1-methyl-vinyl)-2-(2,6-difluorobenzyloxy)-phenyl]-acetic acid; m.p.=167°-168°.

reactant | (E)-[5-(2-diethylcarbamoyl-1-methylvinyl)-2-(2,6-difluorobenzyloxy)-phenyl]-acetaldehyde | 10.92 mmol, 4.38 g | C(C)N(C(=O)/C=C(\C)/C=1C=CC(=C(C1)CC=O)OCC1=C(C=CC=C1F)F)CC | C23H25F2NO3
reactant | isobutylene | 2 M | CC(C)=C | C4H8
reactant | THF | 73.2 mmol, 36.6 mL | C1CCOC1 | C4H8O
reactant | NaClO2 | 17.48 mmol, 1.58 g | [O-]Cl=O.[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | tBuOH | 70 mL | CC(C)(C)O | C4H10O
solvent | H2O | 25 mL | O | H2O
product | (E)-[5-(2-diethylcarbamoyl-1-methyl-vinyl)-2-(2,6-difluorobenzyloxy)-phenyl]-acetic acid | C(C)N(C(=O)/C=C(\C)/C=1C=CC(=C(C1)CC(=O)O)OCC1=C(C=CC=C1F)F)CC | C23H25F2NO4
